US05298527
Preparation of methyl α-(2-bromomethylphenyl)-β-methylacrylate (compound no. 24)
At 0° C., 105.3 ml (140 mmol) of a 1.33 M boron tribromide solution in methylene chloride was dripped into 31 g (140 mmol) of methyl α-(2-methoxymethylphenyl)-β-methylacrylate in 500 ml of CH2Cl2, and the mixture was refluxed for 2 hours. 25 ml of methanol was then added, the mixture was stirred for a further 90 minutes at room temperature, hydrolyzed with water while cooling with ice, and washed neutral with 3% strength caustic solution, and the aqueous phase was extracted with methylene chloride. The combined organic phases were washed with water, dried and evaporated down. The crystals which precipitated were separated off, washed with a small amount of n-hexane and dried. The filtrates were evaporated down end purified chromatographically in a silica gel column (cyclohexane/MTBE:8/1). A total of 31 g of product was obtained in the form of pale yellow crystals.

reactant | boron tribromide | 1.33 M | B(Br)(Br)Br | BBr3
reactant | methyl α-(2-methoxymethylphenyl)-β-methylacrylate | 140 mmol, 31 g | COCC1=C(C=CC=C1)C(C(=O)OC)=CC | C13H16O3
reactant | methanol | 25 ml | CO | CH4O
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | methyl α-(2-bromomethylphenyl)-β-methylacrylate | 31 g | BrCC1=C(C=CC=C1)C(C(=O)OC)=CC | C12H13BrO2
